US09227962B2
To a solution of 5-(piperidin-4-yl)indolin-2-one (64.6 mg, 0.299 mmol) in THF (1.5 ml) and MeOH (3 ml) were added dihydro-2H-pyran-4 (3H)-one (0.132 ml, 1.34 mmol), acetic acid (0.170 ml, 29.5 mmol) and NaBH3(CN) (61.6 mg, 0.931 mmol). After stirring at room temperature for 4 days, the reaction mixture was concentrated. The residue was diluted with sat. NaHCO3 aq. and extracted with CHCl3. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (CHCl3/MeOH) to give 5-(1-(tetrahydro-2H-pyran-4-yl)piperidin-4-yl)indolin-2-one (84.9 mg, 95%).

reactant | 5-(piperidin-4-yl)indolin-2-one | 0.299 mmol, 64.6 mg | N1CCC(CC1)C=1C=C2CC(NC2=CC1)=O | C13H16N2O
reactant | dihydro-2H-pyran-4 (3H)-one | 1.34 mmol, 0.132 ml | O1CCC(CC1)=O | C5H8O2
reactant | acetic acid | 29.5 mmol, 0.170 ml | C(C)(=O)O | C2H4O2
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3 ml | CO | CH4O
product | 5-(1-(tetrahydro-2H-pyran-4-yl)piperidin-4-yl)indolin-2-one | 84.9 mg, 95% | O1CCC(CC1)N1CCC(CC1)C=1C=C2CC(NC2=CC1)=O | C18H24N2O2
